US07507775B2
1-(2-methylpropyl)-1,1,3,3-tetramethyldisiloxane (Structure 3).
An 80 mL Fischer-Porter high pressure bottle was charged with tetramethyldisiloxane (10.0 g), toluene (10.0 g) and Wilkinson's catalyst ((PPh3)3RhCl, 40 ppm), stirred and brought to 60° C. The bottle was attached to a manifold and pressurized with isobutylene (25 psig) and maintained at 60-70° C. for 8 h. The pressure was vented, and the reaction was sampled for GC analysis; found residual tetramethyldisiloxane, M′MR product and MRMR byproduct (2:95:3). The resulting material was stripped under vacuum (approx. 150 mm Hg) at 40° C. to remove olefin and M′M′, then filtered with Celite to yield 21.3 g M′MR product/toluene solution, 94% GC purity. This product was found to have an Si—H content of 11 cc H2/g by gasiometric titration.

reactant | tetramethyldisiloxane | 10.0 g | C[SiH2]O[Si](C)(C)C | C4H14OSi2
reactant | isobutylene | CC(C)=C | C4H8
reactant | toluene | 10.0 g | C1(=CC=CC=C1)C | C7H8
catalyst | Wilkinson's catalyst | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 1-(2-methylpropyl)-1,1,3,3-tetramethyldisiloxane | CC(C[Si](O[SiH](C)C)(C)C)C | C8H22OSi2
